US03963742
Preparation of 4-(n-Butylthio)-1-methyl-3,5-diphenylpyrazole
A mixture of 4-bromo-1-methyl-3,5-diphenylpyrazole (21 g, 0.0671 mole), copper(1)salt of butanethiol (12.58 g, 0.08 mole), pyridine (10 ml) and quinoline (100 ml) is stirred and heated at 175° to 180°C for 8 hours. The reaction mixture is cooled, poured into dilute hydrochloric acid (500 ml) and extracted with benzene. The benzene layer is separated and stripped in vacuo to give a brown oil. The oil is slurried with petroleum ether (b.p. 40° to 60°C), filtered and the filtrate stripped in vacuo to give a brown syrup 21 g (97%), >95% pure by glc.

reactant | 4-bromo-1-methyl-3,5-diphenylpyrazole | 0.0671 mole, 21 g | BrC=1C(=NN(C1C1=CC=CC=C1)C)C1=CC=CC=C1 | C16H13BrN2
reactant | butanethiol | 0.08 mole, 12.58 g | C(CCC)S | C4H10S
reactant | quinoline | 100 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 4-(n-Butylthio)-1-methyl-3,5-diphenylpyrazole | 21 g, 97% | C(CCC)SC=1C(=NN(C1C1=CC=CC=C1)C)C1=CC=CC=C1 | C20H22N2S
